US07452895B2
Preparation of (4-aminotetrahydropyran-4-yl)-methanol
(4-Amino-tetrahydropyran-4-yl)-methanol is prepared by adding LAH (99%, 1.2 g), portionwise, to a stirred mixture of 4-aminotetrahydropyran-4-carboxylic acid hydrochloride (2.0 g, 11.0 mmol) in THF (30 mL) at 0° C. Upon completion of addition, the reaction mixture is warmed to room temperature and stirred for 1 hour. The reaction mixture is cooled to 0° C. and cautiously quenched by the portionwise addition of Na2SO4.10H2O (4 g). The reaction mixture is diluted with ethyl acetate, warmed to room temperature, and filtered through Celite to give the desired product.

reactant | LAH | 1.2 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-aminotetrahydropyran-4-carboxylic acid hydrochloride | 11.0 mmol, 2.0 g | Cl.NC1(CCOCC1)C(=O)O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (4-aminotetrahydropyran-4-yl)-methanol | NC1(CCOCC1)CO | C6H13NO2
